US06107301
N-(2-Bromo-4-(1-methylethyl)phenyl)-N-propargyl-4,6-dimethyl-2-pyrimidinamine
By using 2-(2-bromo-4-(1-methylethyl)anilino)-4,6-dimethylpyrimidine and substituting propargyl chloride in Example 9, the title compound was isolated as the free-base, Mass spec. (NH3 --CI/DDIP): 358 (m+H)+.

reactant | 2-(2-bromo-4-(1-methylethyl)anilino)-4,6-dimethylpyrimidine | BrC1=C(NC2=NC(=CC(=N2)C)C)C=CC(=C1)C(C)C | C15H18BrN3
reactant | propargyl chloride | C(C#C)Cl | C3H3Cl
product | N-(2-Bromo-4-(1-methylethyl)phenyl)-N-propargyl-4,6-dimethyl-2-pyrimidinamine | BrC1=C(C=CC(=C1)C(C)C)N(C1=NC(=CC(=N1)C)C)CC#C | C18H20BrN3
